US09381200B2
Step-4: trans-sulfuric acid mono-[2-(N′—[(R)-pyrrolidin-3-carbonyl]-hydrazinocarbonyl)-7-oxo-1,6-diaza-bicyclo[3.2.1]oct-6-yl]ester
By using the procedure described in Step-4 of Example-1, and by using tetrabutylammonium salt of trans-3-[N′-(6-sulfooxy-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)-hydrazinocarbonyl]-(R)-pyrrolidin-1-carboxylic acid tert-butyl ester (15 gm, 0.021 mmol), dichloromethane (37 ml) and trifluoroacetic acid (37 ml) to provide the title compound in 7.7 gm quantity as a white solid.

reactant | trans-3-[N′-(6-sulfooxy-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)-hydrazinocarbonyl]-(R)-pyrrolidin-1-carboxylic acid tert-butyl ester | 0.021 mmol, 15 gm | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)C(=O)NNC(=O)[C@@H]1N2C(N([C@H](CC1)C2)OS(=O)(=O)O)=O | C17H27N5O9S
reactant | trifluoroacetic acid | 37 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 37 ml | ClCCl | CH2Cl2
product | trans-sulfuric acid mono-[2-(N′—[(R)-pyrrolidin-3-carbonyl]-hydrazinocarbonyl)-7-oxo-1,6-diaza-bicyclo[3.2.1]oct-6-yl]ester | N1C[C@@H](CC1)C(=O)NNC(=O)[C@@H]1N2C(N([C@H](CC1)C2)OS(O)(=O)=O)=O | C12H19N5O7S
